US04795712
STEP A: Preparation of N-ethylbenz[cd]indol-2(1H)-one:
A mixture of benz[cd]indol-2(1H)-one (15.0 g, 88.8 mmole) in 20% aqueous potassium hydroxide (200 ml) was heated at 55°-60° C. while 60 ml of diethyl sulfate was added dropwise over a three hour period. After 16 hours at room temperaure and an additional hour at 55°-60° C., the mixture was partitioned between dichloromethane and water. The organic phase was concentrated and purified by chromatography on silicon dioxide with 5% acetone/dichloromethane to give the desired product (8.0 g, 46%).

reactant | benz[cd]indol-2(1H)-one | 88.8 mmole, 15.0 g | N1C(C2=C3C(C=CC=C13)=CC=C2)=O | C11H7NO
reactant | diethyl sulfate | 60 ml | S(=O)(=O)(OCC)OCC | C4H10O4S
solvent | potassium hydroxide | 200 ml | [OH-].[K+]
product | N-ethylbenz[cd]indol-2(1H)-one | 8.0 g, 46% | C(C)N1C(C2=C3C(C=CC=C13)=CC=C2)=O | C13H11NO
